US04067976
α-t-Butoxycarbonylamino-m-ureidophenylacetic acid
A solution of α-t-butoxycarbonylamino-m-aminophenylacetic acid (2.66 g, 0.01 mol) and potassium cyanate (0.81 g, 0.01 mol) in a mixture of water (35 ml) and acetic acid (2.5 ml) was heated at 56° for 3 hours. The solution was cooled, acidified with 40% H3PO4, and extracted with ethyl acetate. The dried extracts were evaporated to give the title product: mp 93°-95° (dec).

reactant | α-t-butoxycarbonylamino-m-aminophenylacetic acid | 0.01 mol, 2.66 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC(=CC=C1)N | C13H18N2O4
reactant | potassium cyanate | 0.01 mol, 0.81 g | [O-]C#N.[K+]
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | water | 35 ml | O | H2O
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | α-t-Butoxycarbonylamino-m-ureidophenylacetic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC(=CC=C1)NC(=O)N | C14H19N3O5
